US03974186
2,6-BIS(2-AMINOETHOXY)ANTHRAQUINONE
A mixture of 17.4 g (0.03 mole) of the intermediate 2,6-bis-(2-phthalimidoethoxy)anthraquinone, prepared in (A) above, 200 ml. of methanol, and 3.6 g. (0.06 mole) of hydrazine hydrate (85% is heated to reflux for 4 hours. Water (100 ml.) is added and the methanol boiled out of the mixture. Then, 75 ml. of 37% hydrochloric acid is added and the resulting mixture heated to reflux for another hour. The mixture is allowed to cool, then chilled at 0°C., and the precipitate of phthalhydrazide removed by filtration with suction. The filtrate is evaporated to dryness, made alkaline with 10% sodium hydroxide, and the base is extracted into chloroform. The chloroform layer is washed with water, dried with anhydrous magnesium sulfate, filtered, and the chloroform evaporated. The 2,6-bis-(2-aminoethoxy)anthraquinone base is converted to the dihydrochloride salt as described in Example 1, and recrystallized from a solvent or solvent mixture such as isopropanol, ethanol/ether, or butanone/methanol. In a similar manner, 2,7-bis(2-aminoethoxy)anthraquinone can be prepared from 2,7-bis(2-chloroethoxy)anthraquinone.

reactant | 2,6-bis-(2-phthalimidoethoxy)anthraquinone | C1(C=2C(C(N1CCOC1=CC=3C(C4=CC=C(C=C4C(C3C=C1)=O)OCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=O)=CC=CC2)=O | C34H22N2O8
reactant | hydrazine hydrate | 0.06 mole | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | Water | 100 ml | O | H2O
product | 2,6-BIS(2-AMINOETHOXY)ANTHRAQUINONE | NCCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCN)=O | C18H18N2O4
